US06087379
(b) 1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-4-mercaptopiperidine hydrochloride
In 50 ml of ethanol, 2.00 g (5.97 mmol) of 4-acetylthio-1-(α-cyclopropylcarbonyl-2-fluorobenzyl)piperidine were dissolved. An adequate amount of hydrogen chloride gas was blown into this solution and the resulting solution was allowed to stand overnight at room temperature. The solvent was distilled off under reduced pressure. The residue was crystallized from diethyl ether, whereby 1.95 g of the title compound were obtained as slightly brown crystals (yield: 99%).

reactant | 4-acetylthio-1-(α-cyclopropylcarbonyl-2-fluorobenzyl)piperidine | 5.97 mmol, 2.00 g | C(C)(=O)SC1CCN(CC1)C(C1=C(C=CC=C1)F)C(=O)C1CC1 | C18H22FNO2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(α-Cyclopropylcarbonyl-2-fluorobenzyl)-4-mercaptopiperidine hydrochloride | 1.95 g | Cl.C1(CC1)C(=O)C(C1=C(C=CC=C1)F)N1CCC(CC1)S | InChI=1S/C16H20FNOS.ClH/c17-14-4-2-1-3-13(14)15(16(19)11-5-6-11)18-9-7-12(20)8-10-18;/h1-4,11-12,15,20H,5-10H2;1H
